US09193693B2
Step 2. 2-(2-Bromophenoxy)ethanamine
Into a 500-mL 3-necked round-bottom flask purged and maintained with an inert atmosphere of nitrogen, was placed a solution of 2-(2-bromophenoxy)acetonitrile (5.63 g, 26.68 mmol, 1.00 equiv) in tetrahydrofuran (20 mL). This was followed by the addition of BH3 in tetrahydrofuran (143 mL, 5.30 equiv) dropwise with stirring at 0° C. The resulting solution was stirred overnight at 20° C. in an oil bath and quenched by the addition of water (10 ml). The resulting mixture was concentrated under vacuum and diluted with water. The pH value of the aqueous solution was adjusted to 10 with 1N sodium hydroxide and extracted with 6×50 mL of dichloromethane. The organic layers was combined and concentrated under vacuum. This resulted in 5.67 g (crude) of 2-(2-bromophenoxy)ethanamine as pale brown oil.

reactant | 2-(2-bromophenoxy)acetonitrile | 26.68 mmol, 5.63 g, 1.00 equiv | BrC1=C(OCC#N)C=CC=C1 | C8H6BrNO
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 143 mL, 5.30 equiv | O1CCCC1 | C4H8O
product | 2-(2-Bromophenoxy)ethanamine | BrC1=C(OCCN)C=CC=C1 | C8H10BrNO
